US05442062
A 1.0M solution (75 ml) of trimethylsilylmethyl magnesium chloride in diethyl ether was diluted with dry diethyl ether (50 ml). After the interior of an reaction vessel was replaced by nitrogen, a solution (50 ml) of benzaldehyde (5.3 g) in dry diethyl ether was slowly added dropwise to the solution in the reaction vessel while stirring. The reaction mixture was stirred at 40° C. for 2 hours under nitrogen atmosphere and cooled in an ice bath. A 25% aqueous solution (100 ml) of ammonium chloride was added dropwise thereto, the mixture was extracted with diethyl ether, washed with water and dried over sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure to obtain 1-trimethylsilyl-2-hydroxy-2-phenylethane (13.1 g) as pale yellow oily material.

reactant | trimethylsilylmethyl magnesium chloride | C[Si](C)(C)C[Mg]Cl
reactant | benzaldehyde | 50 ml, 5.3 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1-trimethylsilyl-2-hydroxy-2-phenylethane | 13.1 g | C[Si](CC(C1=CC=CC=C1)O)(C)C | C11H18OSi
